US08809539B2
Thionyl chloride (52 mL, 0.716 mol) is added drop wise to a stirred solution of 2-[{4-[5-(2-fluoro-biphenyl-4-yl)-1,2,4-oxadiazole-3-yl]benzyl}(2-hydroxyethyl)-amino]ethanol (31 g, 0.0715 mol) in dichloromethane (150 mL) at 0° C. N,N-Dimethylformamide (2 mL) is added and the reaction mixture is heated at 80° C. for 1 h. Excess thionyl chloride is removed under reduced pressure and the residue is made alkaline (pH ˜9) by the addition of an aqueous sodium hydroxide solution (4N, 150 mL) at room temperature. The aqueous layer is extracted with ethyl acetate (2×100 mL) and combined organic layers are dried over sodium sulphate. Removal of solvent under reduced pressure gives a viscous liquid, which is purified by column chromatography (silica gel 230-400 mesh, n-hexane:ethyl acetate 7:3) to give bis-(2-chloroethyl){4-[5-(2-fluorobiphenyl-4-yl)-1,2,4-oxadiazole-3-yl]benzyl}amine.

reactant | Thionyl chloride | 0.716 mol, 52 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-[{4-[5-(2-fluoro-biphenyl-4-yl)-1,2,4-oxadiazole-3-yl]benzyl}(2-hydroxyethyl)-amino]ethanol | 0.0715 mol, 31 g | FC1=C(C=CC(=C1)C1=NC(=NO1)C1=CC=C(CN(CCO)CCO)C=C1)C1=CC=CC=C1 | C25H24FN3O3
reactant | N,N-Dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
reactant | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | bis-(2-chloroethyl){4-[5-(2-fluorobiphenyl-4-yl)-1,2,4-oxadiazole-3-yl]benzyl}amine | ClCCN(CC1=CC=C(C=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=CC=CC=C1)F)CCCl | C25H22Cl2FN3O
